### PR TITLE
Reflection lemmas for `seq.uniq`

### LINKED ISSUE #112: Missing result on seq.uniq ?
Hi,

I've been quite surprised not to be able to derive the following result with the current state of the `seq` library. Am i missing something or should i do a pull request?

```
Lemma uniqPn {T : eqType} (x0 : T) (s : seq T) : ~~ uniq s ->
  exists i, exists j,
    [&& i < size s, j < size s, i != j & nth x0 s i == nth x0 s j].
Proof.
elim: s => //= x s ih /nandP[]; last first.
+ by case/ih=> [i] [j] {ih}ih; exists i.+1, j.+1.
rewrite negbK => /(nthP x0) [j ltj <-].
by exists 0, j.+1 => /=; rewrite eqxx andbT.
Qed.

```

### PR DESCRIPTION
**Pull request by strub**
fixes #112

### CODE REVIEW

**Comment by CohenCyril** [comment]
I'm ok with that, @ggonthier, @amahboubi what do you think?

**Comment by herbelin** [comment]
Hi, sorry for intervene. Do you know if @ggonthier's alias is working? I could not see a comment from him on github and his main page there seems to not have been updated since his move. So, I wonder whether the email address bound to his github account is still valid, and reaches him.

**Comment by CohenCyril** [comment]
Thanks Hugo, @maximedenes and @gares suspect the same thing, I sent a mail to Georges' inria email to check with him.

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -1322,6 +1322,35 @@ elim: v i => [|n v IHv] [|i] //=; first by rewrite size_ncons /= addn1.
...
 
+Section uniqP.
+Variable T : eqType.
+Implicit Type s : seq T.
+
+Lemma uniqP x0 s :
+ reflect {in [pred i | i < size s] &, injective (nth x0 s)} (uniq s).
+Proof.
+apply: (iffP idP) => [uq_s i j lei lej /eqP|].
++ by rewrite nth_uniq // => /eqP.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: There is a spurious bullet here (only one subgoal => no bullet)

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -1322,6 +1322,35 @@ elim: v i => [|n v IHv] [|i] //=; first by rewrite size_ncons /= addn1.
...
+elim: s => //= x s ih inj_nth; rewrite ih ?andbT; last first.
++ by move=> i j lei lej /(inj_nth i.+1 j.+1 lei lej) [].
+apply/negP=> /(nthP x0) [i lti xE].
+by have := (inj_nth 0 i.+1 (ltn0Sn _) lti (esym xE)).
```
Comment (gares) [inline mathcomp/ssreflect/seq.v]: spurious `()` here

**Comment by strub** [comment]
Aren't you doing things in reverse order (merging, commenting code-style, writing a code-style). It seems that you're at step 2 :)

**Comment by CohenCyril** [comment]
Changed in favour of uniqPn from #166 (and uniqP is a short consequence of uniqPn)
